US07214690B2
This compound was prepared by General Method 5 (EXAMPLE 1) from (±)-3,4-dihydro-8-isopropoxy-3-(2,2,2-trifluoroethyl)-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline (0.025 g, 0.06 mmol), paraformaldehyde (0.02 g, 0.6 mmol) and NaCNBH3 (0.04 g, 0.6 mmol) in 2 mL glacial acetic acid to afford 0.017 g (65%) of (±)-3-ethyl-3,4-dihydro-8-isopropoxy-4-methyl-3-(2,2,2-trifluoroethyl)-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline, of sufficient purity as to be used directly in the next reaction. 1H NMR (500 MHz, CDCl3) 7.48 (d, J=8.8, 1H), 7.22 (d, J=9.3, 1H), 7.21 (s, 1H), 5.49 (m, 1H), 4.37 (d, J=10.7, 1H), 4.08 (d, J=10.7, 1H), 3.68 (m, 1H), 3.05 (s, 3H), 2.40 (m, 2H), 1.39 (d, J=6.3, 3H), 1.38 (d, J=6.3, 3H).

reactant | (±)-3,4-dihydro-8-isopropoxy-3-(2,2,2-trifluoroethyl)-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.06 mmol, 0.025 g | C(C)(C)OC1=NC2=CC=C3C(=C2C(=C1)C(F)(F)F)OCC(N3)CC(F)(F)F | C17H16F6N2O2
reactant | paraformaldehyde | 0.6 mmol, 0.02 g | C=O | CH2O
reactant | NaCNBH3 | 0.6 mmol, 0.04 g | [BH3-]C#N.[Na+]
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | (±)-3-ethyl-3,4-dihydro-8-isopropoxy-4-methyl-3-(2,2,2-trifluoroethyl)-10-(trifluoromethyl)-2H-[1,4]oxazino[2,3-f]quinoline | 0.017 g, 65% | C(C)C1(N(C=2C(=C3C(=CC(=NC3=CC2)OC(C)C)C(F)(F)F)OC1)C)CC(F)(F)F | C20H22F6N2O2
